US07906517B2
6-Trifluoromethyl-3H-isobenzofuran-1-one (1.77 g) is dissolved in methylene chloride (20 ml) and the mixture is cooled to −78° C., and thereto is added a 1.0M diisobutylaluminum hydride in toluene (19.5 ml) and the mixture is stirred for 1 hour and 20 minutes. The reaction solution is cooled to room temperature, and thereto are added a saturated aqueous ammonium chloride solution and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=4:1→3:2) to give 6-trifluoromethyl-1,3-dihydro-isobenzofuran-1-ol (1.36 g). MS (m/z): 187 [M+H—H2O]+

reactant | 6-Trifluoromethyl-3H-isobenzofuran-1-one | 1.77 g | FC(C1=CC=C2COC(C2=C1)=O)(F)F | C9H5F3O2
reactant | diisobutylaluminum hydride | 1.0M | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | toluene | 19.5 ml | C1(=CC=CC=C1)C | C7H8
product | 6-trifluoromethyl-1,3-dihydro-isobenzofuran-1-ol | 1.36 g | FC(C1=CC=C2COC(C2=C1)O)(F)F | C9H7F3O2
